US07943607B2
8-Fluoro-3,4-dihydro-2H-1,5-benzoxathiepine 5,5-dioxide
meta-Chloroperbenzoic acid (50-55%) (514 mg, 1.49 mmol) was added to a mixture of 8-fluoro-3,4-dihydro-2H-1,5-benzoxathiepine (110 mg, 0.6 mmol) and magnesium sulphate (1 spatula) in DCM (10 mL) and stirred at RT for 24 hours. Water was added and the mixture extracted into ethyl acetate. The combined organics were washed with a saturated solution of sodium bicarbonate (50 mL), brine (40 mL), dried (MgSO4), filtered and reduced in vacuo to give a white solid which was chromatographed on silica, eluting with 0-10% ethyl acetate in isohexane to give a colourless oil. The oil was redissolved in organics, washed with 2M sodium hydroxide solution (40 mL), and concentrated in vacuo to give the desired compound as a white solid (100 mg).

reactant | meta-Chloroperbenzoic acid | 1.49 mmol, 514 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 8-fluoro-3,4-dihydro-2H-1,5-benzoxathiepine | 0.6 mmol, 110 mg | FC1=CC2=C(SCCCO2)C=C1 | C9H9FOS
reactant | magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-Fluoro-3,4-dihydro-2H-1,5-benzoxathiepine 5,5-dioxide | 100 mg | FC1=CC2=C(S(CCCO2)(=O)=O)C=C1 | C9H9FO3S
